US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(1-methyl-4-piperidyl)benzamide
A solution of NaHMDS (1M in THF) (5.91 mL, 5.91 mmol) was added dropwise to a stirred solution of methyl 4-(1-methylpiperidin-4-yl)benzoate (0.4594 g, 1.97 mmol) and tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (0.821 g, 2.36 mmol) in THF (4 mL), over a period of 10 mins under nitrogen. The resulting solution was stirred at room temperature for 18 h. The reaction mixture was poured into saturated NH4Cl (25 mL), extracted with EtOAc (2×25 mL), washed with saturated brine and dried over MgSO4, filtered and evaporated to afford the crude product (1.0719 g) as an orange gum. The crude product was purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.142 g, 16.08%) as a white solid;

reactant | NaHMDS | 5.91 mmol, 1M, 5.91 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl 4-(1-methylpiperidin-4-yl)benzoate | 1.97 mmol, 0.4594 g | CN1CCC(CC1)C1=CC=C(C(=O)OC)C=C1 | C14H19NO2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 2.36 mmol, 0.821 g | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(1-methyl-4-piperidyl)benzamide | 0.142 g, 16.08% | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=CC=C(C=C1)C1CCN(CC1)C)=O | C26H32N4O3
